US07816371B2
c. N-(2-(2-Acetamidoethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chloro-3-fluorophenyl)acetamide
Into a 20 ml reaction vial was combined N-(2-(5-amino-1-oxoisoquinolin-2(1H)-yl)ethyl)acetamide (20 mg, 0.00008 mol), 2-(4-chloro-3-fluorophenyl)acetic acid (30.55 mg, 0.0001620 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (72.66 mg, 0.0001911 mol) N,N-diisopropylethylamine (61.6 μL, 0.000353 mol), and N,N-dimethylformamide (1 mL, 0.02 mol). The mixture was heated at 50° C. for two hours, allowed to cool and poured onto sat sodium bicarbonate (200 ml). The mixture was extraced with methylene chloride (3×100 ml). The combined extracts were dried over sodium sulfate and reduced in vacuo. The mixture was purified by reverse phase prep HPLC using an acetonitrile:water gradient at pH 10. The combined pure fractions were reduced in vacuo to yield the compound as an off white solid.

reactant | N-(2-(5-amino-1-oxoisoquinolin-2(1H)-yl)ethyl)acetamide | 0.00008 mol, 20 mg | NC1=C2C=CN(C(C2=CC=C1)=O)CCNC(C)=O | C13H15N3O2
reactant | 2-(4-chloro-3-fluorophenyl)acetic acid | 0.0001620 mol, 30.55 mg | ClC1=C(C=C(C=C1)CC(=O)O)F | C8H6ClFO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0001911 mol, 61.6 μL, 72.66 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-dimethylformamide | 0.02 mol, 1 mL | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-(2-Acetamidoethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chloro-3-fluorophenyl)acetamide | C(C)(=O)NCCN1C(C2=CC=CC(=C2C=C1)NC(CC1=CC(=C(C=C1)Cl)F)=O)=O | C21H19ClFN3O3
